US06159901
Production of 4-methoxy-6-[3-(trifluoromethyl)phenoxy] picolinic acid, (2-cyanoethylidene) hydrazide (compound No. I-15)
3,3-dimethoxy propionitrile (0.35 g, 0.0015×2 mol) was dissolved in a 2N aqueous hydrochloric acid solution (about 10 ml). The obtained solution was stirred at a temperature of about 50 to 60° C. for about one hour. The solution was further mixed with benzene (about 10 ml) and 4-methoxy-6-[3-(trifluoromethyl)phenoxy] picolinic acid hydrazide (0.50 g, 0.0015 mol), and then the resultant mixture was stirred at that temperature for about one hour. The obtained reaction solution was distributed in ethyl acetate-water The organic phase separated from the solution was successively washed with saturated sodium bicarbonate water and with saturated brine, and then dried with anhydrous sodium sulfate. Thereafter, the resultant solution was concentrated and then purified by silica gel column chromatography (eluting solution: ethyl acetate/hexane), thereby obtaining an aimed product.

reactant | 3,3-dimethoxy propionitrile | 2 mol, 0.35 g | COC(CC#N)OC | C5H9NO2
reactant | benzene | about 10 ml | C1=CC=CC=C1 | C6H6
reactant | 4-methoxy-6-[3-(trifluoromethyl)phenoxy] picolinic acid hydrazide | 0.0015 mol, 0.50 g | COC1=CC(=NC(=C1)OC1=CC(=CC=C1)C(F)(F)F)C(=O)NN | C14H12F3N3O3
solvent | hydrochloric acid | 2N, about 10 ml | Cl | ClH
solvent | ethyl acetate water | C(C)(=O)OCC.O
product | 4-methoxy-6-[3-(trifluoromethyl)phenoxy] picolinic acid, (2-cyanoethylidene) hydrazide | C(#N)CC=NNC(C1=NC(=CC(=C1)OC)OC1=CC(=CC=C1)C(F)(F)F)=O | C17H13F3N4O3
